US07173033B2
A mixture of (6-chloropyridazin-3-yl)hydrazine, 4-nitrobenzoic acid, WSCD hydrochloride and THF was stirred at room temperature for 2 hours. The reaction solution was combined with water, and the precipitate was collected by filtration, washed with water and diethyl ether to obtain N′-(6-chloropyridazin-3-yl)-4-nitrobenzohydrazide. To this, acetic acid was added, and the mixture was stirred at 110° C. for 2 hours, the reaction solution was concentrated under reduced pressure, and the resultant crude crystal was washed with ethanol to obtain 6-chloro-3-(4-nitrophenyl)-1,2,4-triazolo[4,3-b]pyridazine. Dat (F:276).

reactant | (6-chloropyridazin-3-yl)hydrazine | ClC1=CC=C(N=N1)NN | C4H5ClN4
reactant | 4-nitrobenzoic acid | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
reactant | hydrochloride | Cl | ClH
reactant | THF | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | N′-(6-chloropyridazin-3-yl)-4-nitrobenzohydrazide | ClC1=CC=C(N=N1)NNC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C11H8ClN5O3
